US05882628
f. 1-(1,2-Dihydroxyethyl)-3,5-di(hydroxyacetylamino)-2,4,6-triiodobenzene
1-(1,2-Dihydroxyethyl)-3,5-diamino-2,4,6-triiodobenzene is acylated with acetoxyacetyl chloride using for example such a procedure as described in Example 4d. The crude product is then hydrolyzed analogous to Example 4e to give the final product. Purification of the crude product is carried out using preparative HPLC.

reactant | 1-(1,2-Dihydroxyethyl)-3,5-diamino-2,4,6-triiodobenzene | OC(CO)C1=C(C(=C(C(=C1I)N)I)N)I | C8H9I3N2O2
reactant | acetoxyacetyl chloride | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | 1-(1,2-Dihydroxyethyl)-3,5-di(hydroxyacetylamino)-2,4,6-triiodobenzene | OC(CO)C1=C(C(=C(C(=C1I)NC(CO)=O)I)NC(CO)=O)I | C12H13I3N2O6
